US09376422B2
Step 5: methyl 5-bromo-3-(cyclopentylamino)-2,4-dimethylbenzoate
To a stirred solution of methyl 3-amino-5-bromo-2,4-dimethylbenzoate (1.4 g, 5.42 mmol) and cyclopentanone (2.4 mL, 27.13 mmol) in methanol (20 mL), acetic acid (0.650 g, 10.84 mmol) was added and reaction stirred at room temperature for 3 h. Then sodium cyanoborohydride (0.85 g, 13.56 mmol) was added and reaction was stirred for overnight. On completion, solvent was removed water was added and compound was extracted with ethyl acetate. Combined organic layer was collected, dried over Na2SO4 and concentrate under reduced pressure and crude material was purified by column chromatography to afford the desired compound (1.2 g, 68%).

reactant | methyl 3-amino-5-bromo-2,4-dimethylbenzoate | 5.42 mmol, 1.4 g | NC=1C(=C(C(=O)OC)C=C(C1C)Br)C | C10H12BrNO2
reactant | cyclopentanone | 27.13 mmol, 2.4 mL | C1(CCCC1)=O | C5H8O
reactant | acetic acid | 10.84 mmol, 0.650 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 13.56 mmol, 0.85 g | C(#N)[BH3-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | methyl 5-bromo-3-(cyclopentylamino)-2,4-dimethylbenzoate | 1.2 g, 68% | BrC=1C(=C(C(=C(C(=O)OC)C1)C)NC1CCCC1)C | C15H20BrNO2
